US07601856B2
Following the procedure of Example 1, tetrahydro-dibenzofuran-2-ylamine (0.94 g, 5.0 mmol), cyclohexylacetyl chloride (0.80 g, 6.0 mmol), and triethylamine (2.1 mL, 15 mmol) in tetrahydrofuran (24 mL) provided 2-cyclohexyl-N-(6,7,8,9-tetrahydro-dibenzofuran-2-yl)-acetamide (0.32 g). Mp 189-191° C.; MS m/z 312 ([M+H]+); Anal. Calcd. for C20H25NO2: C, 77.14; H, 8.09; N, 4.50; Found: C, 77.44; H, 8.08; N, 4.59.

reactant | tetrahydro-dibenzofuran-2-ylamine | 5.0 mmol, 0.94 g | C1C(CCC=2OC3=C(C21)C=CC=C3)N | C12H13NO
reactant | cyclohexylacetyl chloride | 6.0 mmol, 0.80 g | C1(CCCCC1)CC(=O)Cl | C8H13ClO
reactant | triethylamine | 15 mmol, 2.1 mL | C(C)N(CC)CC | C6H15N
solvent | tetrahydrofuran | 24 mL | O1CCCC1 | C4H8O
product | 2-cyclohexyl-N-(6,7,8,9-tetrahydro-dibenzofuran-2-yl)-acetamide | 0.32 g | C1(CCCCC1)CC(=O)NC1=CC2=C(OC3=C2CCCC3)C=C1 | C20H25NO2
